* C:\Users\Cody\Documents\GitHub\Electronic-Compass\Schematics\PMOS Switch\PMOS switch.asc
V1 N004 0 PULSE(0 3.3 0 1f 1f 1 2)
V2 N001 0 3.3
R2 out 0 1MEG
M1 out N004 N001 N001 FDS4435A
V3 N002 0 PULSE(0 3.3 0 1f 1f 1 2)
M2 Vout N002 N003 N003 FDS4435A
V4 N003 0 3.3
R4 Vout 0 10k
R5 N002 N003 1k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 5
.backanno
.end
