* C:\Users\Cody\Documents\GitHub\Electronic-Compass\Schematics\PMOS Switch\PMOS switch.asc
V1 N003 0 PULSE(0 3.3 0 1f 1f 1 2)
V2 N002 0 3.3
R2 out 0 1MEG
M1 out N003 N002 N002 FDS4435A
V3 N006 0 PULSE(0 3.3 0 1f 1f 1 2)
M2 Vout N006 N007 N007 FDS4435A
V4 N007 0 3.3
R4 Vout 0 10k
R5 N006 N007 1k
V5 N005 0 PULSE(0 3.3 0 1f 1f 1 2)
V6 N001 0 3.3
Q1 N004 N005 0 0 2N3904
M3 V N004 N001 N001 FDS4435A
R1 N004 N001 1MEG
R3 V 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 5
.backanno
.end
